US08563717B2
2-(Butyloxy)-9-[(1-ethyl-4-piperidinyl)methyl]-9H-purin-6-amine
2-(Butyloxy)-9-[(1-ethyl-4-piperidinyl)methyl]-8-(methyloxy)-9H-purin-6-amine (37 mg, 0.102 mmol) was dissolved in methanol (5 ml) and 4M hydrogen chloride in 1,4-dioxane (0.638 ml, 2.55 mmol) and stirred at rt for 5 hours. The solvent was removed in vacuo to give a white solid. The sample was dissolved in methanol and loaded onto an aminopropyl SPE (2 g), eluting with methanol. The solvent was removed to give the title compound as a white solid (32 mg).

reactant | 2-(Butyloxy)-9-[(1-ethyl-4-piperidinyl)methyl]-8-(methyloxy)-9H-purin-6-amine | 0.102 mmol, 37 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CCN(CC1)CC)OC)N | C18H30N6O2
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | 1,4-dioxane | 2.55 mmol, 0.638 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 2-(Butyloxy)-9-[(1-ethyl-4-piperidinyl)methyl]-9H-purin-6-amine | 32 mg | C(CCC)OC1=NC(=C2N=CN(C2=N1)CC1CCN(CC1)CC)N | C17H28N6O
